US05360815
Step 1: 7-Hydroxy4-phenylcoumarin
A mixture of resorcinol (20 g), ethyl benzoylacetate (23.8 mL) and O-phosphoric acid (130 mL) was heated at 85° C. with care for 1 hr. The solution was cooled, poured onto H2O, extracted (3x EtOAc/THF), washed twice with H2O, and then twice with brine. The organic phase was dried and evaporated. Trituration with Et2O followed by filtration afforded the title compound as a solid.

reactant | resorcinol | 20 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | ethyl benzoylacetate | 23.8 mL | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
solvent | O-phosphoric acid | 130 mL | OP(=O)(O)O | H3O4P
product | 7-Hydroxy4-phenylcoumarin | OC1=CC=C2C(=CC(OC2=C1)=O)C1=CC=CC=C1 | C15H10O3
